US04959363
A suspension of 10.0 g ethyl 7-bromo-1,4-dihydro-1-ethyl-4-oxo-3-quinolinecarboxylate (U.S. Pat. No. 3,753,993), 0.64 g dichlorobis(triphenylphosphine)palladium, 10.9 g 3-trimethylstannylpyridine and 6.5 ml hexamethylphosphoramide in 40 ml dioxane was heated at reflux under nitrogen for 48 hrs. The reaction mixture was filtered through neutral alumina, eluted with chloroform, washed with water, and dried over potassium carbonate. The solid product obtained by concentration in vacuo was subjected to chromatography (MPLC; 10:1 CHCl3/EtOH) to give 5.6 g of ethyl 1,4-dihydro-1-ethyl-7-(3-pyridinyl)4-oxo-3-quinolinecarboxylate, which was hydrolyzed by refluxing with 150 ml 3N hydrochloric acid for 1.5 hrs. The product which separated (3.9 g) was dried to give 1,4-dihydro-1-ethyl-7-(3-pyridinyl)-4-oxo-3-quinolinecarboxylic acid, m.p. 268-269° C.

reactant | ethyl 7-bromo-1,4-dihydro-1-ethyl-4-oxo-3-quinolinecarboxylate | 10.0 g | BrC1=CC=C2C(C(=CN(C2=C1)CC)C(=O)OCC)=O | C14H14BrNO3
reactant | 3-trimethylstannylpyridine | 10.9 g | C[Sn](C=1C=NC=CC1)(C)C
reactant | hexamethylphosphoramide | 6.5 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | CHCl3 EtOH | C(Cl)(Cl)Cl.CCO
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.64 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 1,4-dihydro-1-ethyl-7-(3-pyridinyl)4-oxo-3-quinolinecarboxylate | 5.6 g | C(C)N1C=C(C(C2=CC=C(C=C12)C=1C=NC=CC1)=O)C(=O)OCC | C19H18N2O3
